US08119661B2
Step C. The preparation of tert-butyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate
A solution of oxalyl chloride in dichloromethane (2M, 13.67 mL, 27.33 mmol) was cooled to −78° C. under nitrogen atmosphere and was added to a solution of dimethylsulfoxide (3.87 mL, 54.0 mmol) in dichloromethane (40 mL) at −78° C. under nitrogen atmosphere via cannula. After 10 minutes, a solution of tert-butyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate (18.0 mmol) in dichloromethane (20 mL) was added at −78° C. under nitrogen atmosphere to the reaction mixture via cannula. The mixture was stirred at −78° C. for 10 minutes and then triethylamine (10.07 mL, 72.0 mmol) was added dropwise. The reaction was stirred at −78° C. under nitrogen atmosphere for another 20 minutes, then allowed to warm up to 0° C. over 1 hour. The reaction was quenched with water (50 mL) and diluted with dichloromethane (100 mL). The phases were separated and the aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic phases were washed with saturated aqueous ammonium chloride, brine, dried over Na2SO4 and concentrated in vacuo to afford the title compound as yellow oil (5.02 g, 94%), which was used for the subsequent step without further purification. MS (M+1): 297.24.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 54.0 mmol, 3.87 mL | CS(=O)C | C2H6OS
reactant | tert-butyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate | 18.0 mmol | OC1CCN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C16H30N2O3
reactant | triethylamine | 72.0 mmol, 10.07 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 27.33 mmol, 2M, 13.67 mL | ClCCl | CH2Cl2
product | tert-butyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate | 5.02 g, 94% | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)=O | C16H28N2O3
